US06673800B2
Preparation of 1-{4-[3-(3,4-Dimethoxyphenyl)4,5-dihydroisoxazol-5-yl]butyl}-4-(2-methoxyphenyl)piperazine
4-[3-(3,4-Dimethoxyphenyl)-4,5-dihydroisoxazol-5-yl]butanal (26.7 mg, 0.096 mmol), 1-(2-methoxyphenyl)piperazine hydrochloride (20.0 mg, 0.087 mmol), molecular sieve (5 beads), NaBH(OAc)3 (55.6 mg, 0.262 mmol) and diisopropylethylamine (26.9 L, 0.087 mmol) were reacted in 3 mL of methylene chloride for about 12 hr. With the following processes the same as in Example 1, 26.5 mg (62.5%) of the target compound was obtained.

reactant | 4-[3-(3,4-Dimethoxyphenyl)-4,5-dihydroisoxazol-5-yl]butanal | 0.096 mmol, 26.7 mg | COC=1C=C(C=CC1OC)C1=NOC(C1)CCCC=O | C15H19NO4
reactant | 1-(2-methoxyphenyl)piperazine hydrochloride | 0.087 mmol, 20.0 mg | Cl.COC1=C(C=CC=C1)N1CCNCC1
reactant | NaBH(OAc)3 | 0.262 mmol, 55.6 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | diisopropylethylamine | 0.087 mmol, 26.9 L | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | 1-{4-[3-(3,4-Dimethoxyphenyl)4,5-dihydroisoxazol-5-yl]butyl}-4-(2-methoxyphenyl)piperazine | 26.5 mg, 62.5% | COC=1C=C(C=CC1OC)C1=NOC(C1)CCCCN1CCN(CC1)C1=C(C=CC=C1)OC | C26H35N3O4
